US04018802
Step E. Preparation of 8-methylsulfonyl-12-hydroxyheptadecanoic acid
A solution of methyl 8-methylsulfonyl-12-acetoxyheptadecanoate (29.4 g., 0.07 mole) and 20% aqueous sodium hydroxide (70 ml.) in methanol (70 ml.) is stirred at room temperature for 17 hours. The resulting solution is evaporated in vacuo at ~100° C. to an oily residue which is dissolved in water. The aqueous solution is extracted with ether and the organic extract discarded. Then, the aqueous phase is acidified to Congo Red with 6N hydrochloric acid and extracted with ether. The organic extract is washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo at ~100° C. providing crude title compound as a viscous oil (23.6 g., 93%).

reactant | methyl 8-methylsulfonyl-12-acetoxyheptadecanoate | 0.07 mole, 29.4 g | CS(=O)(=O)C(CCCCCCC(=O)OC)CCCC(CCCCC)OC(C)=O | C21H40O6S
reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 8-methylsulfonyl-12-hydroxyheptadecanoic acid | 23.6 g, 93% | CS(=O)(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)O | C18H36O5S
